US04139403
(3,3-Dinitropropyl)methyldiphenylsilane was dissolved in a solution of 0.217 mol of potassium hydroxide in 900 ml of methanol. The solution was placed in a 2 l flask equipped with a glass dip tube for introducing perchloryl fluoride, a thermometer, a magnetic stirrer and an ice bath. The flask was vented to the fume-hood atmosphere by means of a mineral oil bubbler, and another bubbler as well as an inverted vacuum trap (to prevent suck back) were placed between the dip tube and a perchloryl fluoride cylinder. Perchloryl fluoride was passed into the solution at 10° until it was no longer absorbed (2 hrs). Then, 1000 ml of water was added and the solution was allowed to stir 1 hr at room temperature. An additional 1500 ml of water was added and the mixture was made basic (pH 12) with potassium hydroxide. The product was extracted with four 400 ml portions of methylene chloride. The methylene chloride solution was washed with three 1000 ml portions of water, dried and stripped of solvent. The residue, 58.5 g, was chromatographed on a 750 g column of dry silica gel, using carbon tetrachloride (30 l) for elution, to give 44.5 g (79%) of (3-fluoro-3,3-dinitropropyl)methyldiphenylsilane.

reactant | (3,3-Dinitropropyl)methyldiphenylsilane | [N+](=O)([O-])C(CC[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C)[N+](=O)[O-] | C16H18N2O4Si
reactant | potassium hydroxide | 0.217 mol | [OH-].[K+]
reactant | perchloryl fluoride | Cl(=O)(=O)(=O)F | ClFO3
solvent | methanol | 900 ml | CO | CH4O
product | (3-fluoro-3,3-dinitropropyl)methyldiphenylsilane | 44.5 g, 79% | FC(CC[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C)([N+](=O)[O-])[N+](=O)[O-] | C16H17FN2O4Si
